US08604061B2
In analogy to example 162c (S)-4-((Z)-2-bromo-2-phenyl-vinyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester was reacted with diethylzinc to give (S)-2,2-dimethyl-4-((E)-2-phenyl-but-1-enyl)-oxazolidine-3-carboxylic acid tert-butyl ester. Colourless oil. MS (ISP): 332.3 ([M+H]+).

reactant | (S)-4-((Z)-2-bromo-2-phenyl-vinyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1\C=C(\C1=CC=CC=C1)/Br)(C)C | C18H24BrNO3
reactant | diethylzinc | C(C)[Zn]CC
product | (S)-2,2-dimethyl-4-((E)-2-phenyl-but-1-enyl)-oxazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(OC[C@@H]1\C=C(/CC)\C1=CC=CC=C1)(C)C | C20H29NO3
